US06313162B1
(d) Methyl 4-{3-hydroxy-3-[3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)phenyl]-1-propynyl}benzoate
6 g (15.4 mmol) of α-ethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol, 4.1 g (15.4 mmol) of methyl 4-iodobenzoate and 50 ml of triethylamine are introduced into a three-necked flask. The reaction medium is degassed with nitrogen for 30 minutes and 820 mg (1.2 mmol) of bis(triphenylphosphine)palladium(II) chloride and 360 mg (1.9 mmol) of copper iodide are then added successively. The reaction medium is stirred at room temperature for four hours and evaporated to dryness, and the residue obtained is taken up in water and ethyl ether. The organic phase is separated out after settling has taken place, dried over magnesium sulphate and then evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of dichloromethane and heptane (80/20% by volume); 6.7 g (84%) of methyl 4-{3-hydroxy-3-[3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)phenyl]-1-propynyl}benzoate are collected, with a melting point of 91-2° C.

reactant | α-ethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol | 15.4 mmol, 6 g | C(#C)C(O)C1=CC(=C(C(=C1)C(C)(C)C)OCOCC[Si](C)(C)C)C(C)(C)C | C23H38O3Si
reactant | methyl 4-iodobenzoate | 15.4 mmol, 4.1 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.2 mmol, 820 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 1.9 mmol, 360 mg | [Cu](I)I
product | Methyl 4-{3-hydroxy-3-[3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)phenyl]-1-propynyl}benzoate | OC(C#CC1=CC=C(C(=O)OC)C=C1)C1=CC(=C(C(=C1)C(C)(C)C)OCOCC[Si](C)(C)C)C(C)(C)C | C31H44O5Si
